US07592373B2
4.274.b. 3-methoxy-4-[2-(4-methoxypiperidin-1-yl)ethoxy]phenylamine
Prepared analogously to Example 3.1.b. from 1 g (3.22 mmol) of 4-methoxy-1-[2-(2-methoxy-4-nitrophenoxy)ethyl]piperidine. Yield: 0.85 g (94% of theory); C15H24N2O3 (M=280.36); calc.: molecular ion peak (M+H)+: 281; found: molecular ion peak (M+H)+: 281; Rf value: 0.6 (silica gel, dichloromethane/methanol (9:1)).

reactant | 4-methoxy-1-[2-(2-methoxy-4-nitrophenoxy)ethyl]piperidine | 3.22 mmol, 1 g | COC1CCN(CC1)CCOC1=C(C=C(C=C1)[N+](=O)[O-])OC | C15H22N2O5
solvent | dichloromethane methanol | ClCCl.CO
product | 3-methoxy-4-[2-(4-methoxypiperidin-1-yl)ethoxy]phenylamine | COC=1C=C(C=CC1OCCN1CCC(CC1)OC)N | C15H24N2O3
